US08859535B2
8-Oxa-bicyclo[3.2.1]octane-3-carbaldehyde
To a stirred solution of intermediate 158.3 (1.71 g, 11.09 mol) in acetonitrile (13.5 ml) was added 2M HCl (11.09 ml, 22.18 mmol). Stirring was continued for 1.5 h at RT and then carefully basified with 1M NaHCO3. The mixture was extracted with diethyl ether (4×). The organic phases were dried over Na2SO4, filtered and evaporated to dryness to get the crude aldehyde (the NMR showed a mixture of equatorial and axial configuration) witch was dissolved in THF (19 ml) and MeOH (19 ml). To the stirred solution was added DBU (0.092 ml, 0.610 mmol) and stirring was continued for 1 h. The reaction mixture was neutralized with 1M HCl, saturated with NaCl and extracted with EtOAc (6×). The organic phases were dried over Na2SO4, filtered and evaporated to dryness. Purification of the residue by normal phase column chromatography, eluting with a gradient of heptane-EtOAc 80:20 to 0:100, gave the title compound as a colorless oil (1.22 g, 8.70 mmol, 78%): 1H-NMR (600 MHz, DMSO-d6): δ 1.56-2.05 (m, 8H), 2.65 (m, 1H), 4.48 (m, 2H), 9.55 (s, 1H) (equatorial conformation was confirmed by ROESY NMR).

reactant | HCl | 22.18 mmol, 2M, 11.09 ml | Cl | ClH
reactant | NaHCO3 | 1M | C(=O)(O)[O-].[Na+]
reactant | DBU | 0.610 mmol, 0.092 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | 1M | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
reactant | THF | 19 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 13.5 ml | C(C)#N | C2H3N
solvent | MeOH | 19 ml | CO | CH4O
product | 8-Oxa-bicyclo[3.2.1]octane-3-carbaldehyde | 8.70 mmol, 1.22 g, 78% | C12CC(CC(CC1)O2)C=O | C8H12O2
